US07053089B2
A mixture of 2 mmol of 4-aminomethyl-piperidine-1-carboxylic acid benzyl ester, 1 mmol of 2-chloro-3-fluoropyridine, and 1 mmol of tributylamine were heated to reflux in 2 mL of cyclohexanol for 3 days (or 2-methoxyethanol for 14 days) under nitrogen. Preparative TLC eluting with 75:25 ether:hexane gave 4-[(3-fluoro-pyridin-2-ylamino)-methyl]-piperidine-1-carboxylic acid benzyl ester:

reactant | 4-aminomethyl-piperidine-1-carboxylic acid benzyl ester | 2 mmol | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CN | C14H20N2O2
reactant | 2-chloro-3-fluoropyridine | 1 mmol | ClC1=NC=CC=C1F | C5H3ClFN
reactant | tributylamine | 1 mmol | C(CCC)N(CCCC)CCCC | C12H27N
reactant | 2-methoxyethanol | COCCO | C3H8O2
solvent | cyclohexanol | 2 mL | C1(CCCCC1)O | C6H12O
product | 4-[(3-fluoro-pyridin-2-ylamino)-methyl]-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CNC1=NC=CC=C1F | C19H22FN3O2
